* ==========================================================================
* @part: IRF9540N
* @family: mosfet
* @source: Infineon
* @url: https://www.infineon.com (product page -> Simulation models; manual download)
* @origin-file: manual/infineon/infineon-spice-file-irf9540npbf-sm-en.spi
* @retrieved: 2026-09-24
* @licence: notice: "Copyright(c) Symmetry Design Systems"
* @added-by: garv.singh
* @pins: irf9540npbf: 1 2 3
* The complete origin file follows, unchanged.
* ==========================================================================

.SUBCKT irf9540npbf 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Aug 15, 17
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM PMOS LEVEL=1 IS=1e-32
+VTO=-3.74034 LAMBDA=0.00254531 KP=6.90462
+CGSO=1.15995e-05 CGDO=1e-11
RS 8 3 0.0448511
D1 1 3 MD
.MODEL MD D IS=4.56468e-09 RS=0.00874877 N=1.45317 BV=100
+IBV=0.00025 EG=1.15553 XTI=3.00117 TT=1e-07
+CJO=9.64423e-10 VJ=0.500897 M=0.387171 FC=0.5
RDS 3 1 2e+07
RD 9 1 0.0421247
RG 2 7 6.66725
D2 5 4 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=3.36744e-09 VJ=0.5 M=0.683702 FC=1e-08
D3 5 0 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.4 RS=2.99982e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 3.66446e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 6 0 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS irf9540npbf
